US06413958B2
N-(4-chlorobenzyl)-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxamide
A solution of 4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxylic acid (0.204 g) and 4-chlorobenzylamine (0.12 mL) is heated to reflux. To this is added dropwise phosphorus trichloride (0.04 mL). Refluxing is continued for 3 h. The mixture is cooled and water is added to destroy excess PCl3. The solvents are removed. The residue is partitioned between EtOAc and water. The aqueous layer is extracted with EtOAc (3×). The combined organic layers are washed with brine (1×), dried and condensed. The residue is adsorbed on silica and chromatographed (eluent 5% MeOH/CH2Cl2). Fractions homogeneous by TLC are condensed and triturated with Et2O/hexanes to yield 0.017 g (5%) of the desired product as a yellow solid. Physical characteristics are as follows: m.p. 280-285° C. (dec); 1H NMR (300 MHz, DMSO) δ 13.0, 10.20, 8.63, 8.47, 7.38, 4.52, 2.61; IR (mull) 3186, 3148, 3055, 3034, 1655, 1605, 1570, 1546, 1494, 1333, 1243, 1097, 814, 799, 623 cm−1; MS (EI) m/z 327 (M+), 188, 187, 161, 160, 142, 140, 132, 131, 104; HRMS (EI) calcd for C17H14ClN3O2 327.0775, found 327.0783.

reactant | 4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxylic acid | 0.204 g | OC1=C(C=NC2=NC(=CC=C12)C)C(=O)O | C10H8N2O3
reactant | 4-chlorobenzylamine | 0.12 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | phosphorus trichloride | 0.04 mL | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | N-(4-chlorobenzyl)-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxamide | 0.017 g, 5% | ClC1=CC=C(CNC(=O)C=2C=NC3=NC(=CC=C3C2O)C)C=C1 | C17H14ClN3O2
